US08754100B2
Synthesis of methyl 4-oxo-1-(4-trifluoromethylphenyl)cyclohexanecarboxylate
Dimethyl 4-hydroxy-1-(4-trifluoromethylphenyl)-3-cyclohexene-1,3-dicarboxylate (1.13 g) was dissolved in a mixed solvent of THF (3 mL) and methanol (3 mL). A 1 N potassium hydroxide solution (1.89 mL) was added and the mixture was stirred at 100° C. for eight hours. After leaving to cool, ethyl acetate and water were added to the reaction solution, followed by neutralization with 1 N hydrochloric acid. The organic layer was separated, washed with brine and then dried over anhydrous sodium sulfate. The drying agent was separated by filtration and then the organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (272 mg). The property values of the compound are as follows.

reactant | Dimethyl 4-hydroxy-1-(4-trifluoromethylphenyl)-3-cyclohexene-1,3-dicarboxylate | 1.13 g | OC1=C(CC(CC1)(C(=O)OC)C1=CC=C(C=C1)C(F)(F)F)C(=O)OC | C17H17F3O5
reactant | potassium hydroxide | 1 N, 1.89 mL | [OH-].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | methanol | 3 mL | CO | CH4O
solvent | water | O | H2O
product | methyl 4-oxo-1-(4-trifluoromethylphenyl)cyclohexanecarboxylate | 272 mg | O=C1CCC(CC1)(C(=O)OC)C1=CC=C(C=C1)C(F)(F)F | C15H15F3O3
